US05747477
3-Methyl-3-(4-nitrophenyl)butanoic acid
To cooled (0° C) concentrated H2SO4 (18.5 mL), was added 3-methyl-3- phenylbutanoic acid (10 g, 56 mmol). Next, a cooled solution of HNO3 (3 mL) in H2SO4 (6.2 mL) was added dropwise and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 30 min more. The mixture was poured into ice and the resulting solution was allowed to stand in the refrigerator overnight. The precipitate was filtered, washed with H2 0 and dried, to afford a crude product (14.5 g). This was purified by chromatography on silica gel (CHCl3 :MeOH, 3%) to give the title compound (5.9 g, 47%). 1H NMR (80MHz, CDCl3) δ (TMS): 8.16 (d, J=6.5 Hz, 2H), 7.55 (d, J=6.5 Hz, 2H), 3.5 (m, 1H), 2.70 (s, 2H), 1.50 (s, 6H).

reactant | 3-methyl-3- phenylbutanoic acid | 56 mmol, 10 g | CC(CC(=O)O)(C)C1=CC=CC=C1 | C11H14O2
reactant | HNO3 | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 6.2 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 18.5 mL | OS(=O)(=O)O | H2O4S
product | 3-Methyl-3-(4-nitrophenyl)butanoic acid | 5.9 g, 47% | CC(CC(=O)O)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO4
